US07902400B2
To a mixture of 1 ml of ethyl acetate and 0.2 g of 2-methylcyclopentylamine hydrochloride was added 0.48 ml of triethylamine and then, a mixture of 0.25 g of 3,5-dimethoxy-4-(2-propynyloxy)benzoyl chloride and 1 ml of ethyl acetate was added dropwise thereto under ice cooling. The mixture obtained was stirred at room temperature for 12 hours. Then, the reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.21 g of N-(2-methylcyclopentyl)-3,5-dimethoxy-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 68 of the present invention) represented by the formula:

reactant | 2-methylcyclopentylamine hydrochloride | 0.2 g | Cl.CC1C(CCC1)N
reactant | triethylamine | 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethoxy-4-(2-propynyloxy)benzoyl chloride | 0.25 g | COC=1C=C(C(=O)Cl)C=C(C1OCC#C)OC | C12H11ClO4
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-methylcyclopentyl)-3,5-dimethoxy-4-(2-propynyloxy)benzamide | 0.21 g | CC1C(CCC1)NC(C1=CC(=C(C(=C1)OC)OCC#C)OC)=O | C18H23NO4
